US08754100B2
Synthesis of 5-(tert-butyldiphenylsilanyloxy)-3-(4-trifluoromethylphenyl)-pentanenitrile
5-(tert-Butyldiphenylsilanyloxy)-3-(4-trifluoromethylphenyl)pentanoic acid amide (640 mg) was dissolved in methylene chloride (13 mL), and 1,8-diazabicyclo[5,4,0]undec-7-ene (862 μL) and methyl dichlorophosphate (301 μL) were added at 0° C. After stirring at room temperature for 1.5 hours, the reaction was terminated with a saturated sodium bicarbonate aqueous solution. The organic layer was washed with brine and then dried over magnesium sulfate. Concentration under reduced pressure gave an oil. The oil was allowed to pass through a silica gel pad (mobile phase:ethyl acetate:heptane=1:2) to obtain the title compound (600 mg).

reactant | 5-(tert-Butyldiphenylsilanyloxy)-3-(4-trifluoromethylphenyl)pentanoic acid amide | 640 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)N)C1=CC=C(C=C1)C(F)(F)F | C28H32F3NO2Si
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 862 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl dichlorophosphate | 301 μL | P(=O)(OC)(Cl)Cl | CH3Cl2O2P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | 5-(tert-butyldiphenylsilanyloxy)-3-(4-trifluoromethylphenyl)-pentanenitrile | 600 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC#N)C1=CC=C(C=C1)C(F)(F)F | C28H30F3NOSi
